US07122545B2
To a solution of 0.56 g 4-hydroxy-5-[(4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbonyl)-amino]-azepane-1-carboxylic acid tert-butyl ester in 10 ml dimethylsulfoxide were added 0.93 ml triethylamine, 10 ml dichlotomethane and a solution of 0.58 g sulfur trioxide pyridine complex in 8 ml dimethylsulfoxide. The mixture was stirred for 18 hours at room temperature. Extraction with water/ ethylacetate and chromatography on silicagel with dichloromethane/methanol 97:3 yielded 0.49 g (87%) 4-[(4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbonyl)-amino]-5-oxo-azepane-1-carboxylic acid tert-butyl ester as yellow solid; M.p.: 95–97° C.; MS (ISP): m/e=505 (M+H+).

reactant | 4-hydroxy-5-[(4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbonyl)-amino]-azepane-1-carboxylic acid tert-butyl ester | 0.56 g | C(C)(C)(C)OC(=O)N1CCC(C(CC1)NC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)O | C24H34N4O6S
reactant | triethylamine | 0.93 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
product | 4-[(4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbonyl)-amino]-5-oxo-azepane-1-carboxylic acid tert-butyl ester | 0.49 g, 87% | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)NC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C24H32N4O6S
